US08372842B2
Decaborane (0.014 g, 0.12 mmol) was added to a solution of tert-butyl 4-(3-amino-1-(4-methoxybenzyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.20 g, 0.39 mmol) and 1-(4-methoxybenzyl)pyrrolidine-2,4-dione (0.10 g, 0.47 mmol) in MeOH (3 mL) and DCM (0.5 mL) and stirred at 48° C. (oil bath) for 20 hours. The solvent was removed. The resulting residue was dissolved in ethyl acetate (20 mL), washed with saturated NaHCO3 (10 mL), dried (sodium sulfate) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (hexane:ethyl acetate=1:1) to give tert-butyl 4-(1-(4-methoxybenzyl)-3-(1-(4-methoxybenzyl)-5-oxopyrrolidin-3-ylamino)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.20 g, 70%) as a solid. LCMS (APCI+) m/z 718(M+H)+.

reactant | Decaborane | 0.12 mmol, 0.014 g | [B][B][B][B][B][B][B][B][B][B] | B10
reactant | tert-butyl 4-(3-amino-1-(4-methoxybenzyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.39 mmol, 0.20 g | NC1=NN(C2=NC=C(C(=C21)N2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C29H34N6O3
reactant | 1-(4-methoxybenzyl)pyrrolidine-2,4-dione | 0.47 mmol, 0.10 g | COC1=CC=C(CN2C(CC(C2)=O)=O)C=C1 | C12H13NO3
solvent | MeOH | 3 mL | CO | CH4O
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(1-(4-methoxybenzyl)-3-(1-(4-methoxybenzyl)-5-oxopyrrolidin-3-ylamino)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.20 g, 70% | COC1=CC=C(CN2N=C(C=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C3=CC=CC=C3)NC3CN(C(C3)=O)CC3=CC=C(C=C3)OC)C=C1 | C41H47N7O5
